US04242507
N-Benzyloxycarbonyl-L-proline (1.25 g) and ethyl 2-methanesulfonyloxyimino-2-cyanoacetate (1.1 g) are dissolved in ethyl acetate (10 ml). To the solution is added triethylamine (0.7 ml) and the mixture is stirred at room temperature for 1 hour. After allowing to stand overnight, to the reaction mixture is added ethyl acetate. The mixture is washed with water and dried over anhydrous magnesium sulfate. After drying, the solvent is distilled off to give ethyl 2-(N-benzyloxycarbonyl-L-prolyloxyimino)-2-cyanoacetate (1.9 g) as an oily substance.

reactant | N-Benzyloxycarbonyl-L-proline | 1.25 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | ethyl 2-methanesulfonyloxyimino-2-cyanoacetate | 1.1 g | CS(=O)(=O)ON=C(C(=O)OCC)C#N | C6H8N2O5S
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(N-benzyloxycarbonyl-L-prolyloxyimino)-2-cyanoacetate | 1.9 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)ON=C(C(=O)OCC)C#N)CCC1 | C18H19N3O6
